US06362361B1
Ethyl 2,2-di(tertiary-amylperoxy)-1-cyclopentanecarboxylate was prepared by the addition of 92.64% TAHP (tertiary amyl hydroperoxide) (42.16 g, 0.3750 mol) to 95% ethyl 2-oxo-1-cyclopentanecarboxylate (16.44 g, 0.1000 mol) at room temperature in a three necked 250-mL round bottomed flask equipped with a thermometer and mechanical stirrer. The solution was then cooled via a dry ice-acetone bath to −10° C. and 78% sulfuric acid (15.09 g, 0.1200 mol) added dropwise to the solution with temperature at −10° C. Upon completion of the addition of sulfuric acid, the solution was allowed to reach 5° C. where it was maintained by an ice-water bath for three hours with mechanical stirring. The reaction was transferred to a separatory funnel and the lower acidic aqueous layer separated and discarded. The organic layer was then dissolved in petroleum ether and washed with saturated NaCl solution followed by 2% NaOH solution to bring aqueous washings to a pH of 4.5 to 7.0. The organic layer was then dried over MgSO4, filtered, stripped to remove the organic solvent and then analyzed for purity by gas chromatography (66% by area). Purification by chromatography (silica gel, petroleum ether) afforded a liquid product: 13C NMR (75 MHz, CDCl3) δ 171.9 (C═O), 116.8 (O—C—O, cyclic), 81.8 (C(CH3)2), 81.4 (C(CH3)2, 59.9 (O—CH2CH3), 49.5 (CH, cyclic), 33.0 (CH2, cyclic), 31.6 (CCH2CH3, (2X)), 27.9 (CH2, cyclic), 23.8 (C(CH3)2, (2x)), 22.2 (CH2, cyclic), 13.8 (O—CH2CH3), 8.0 (CCH2CH3, (2x)); IR (neat) ν 1736, 1366, 1202, 875 cm−1; Analysis calculated for C18H34O6: C, 62.40; H, 9.89; O, 27.71; found: C, 62.40: H, 10.14; O, 26.93.

reactant | TAHP | 0.3750 mol, 42.16 g | C(C)(C)(CC)OO | C5H12O2
reactant | ethyl 2-oxo-1-cyclopentanecarboxylate | 0.1000 mol, 16.44 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | sulfuric acid | 0.1200 mol, 15.09 g | S(O)(O)(=O)=O | H2O4S
product | Ethyl 2,2-di(tertiary-amylperoxy)-1-cyclopentanecarboxylate | C(C)(C)(CC)OOC1(C(CCC1)C(=O)OCC)OOC(C)(C)CC | C18H34O6
